US07199120B2
4-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (200 mg, 0.53 mmol) was dissolved in 5 mL of cyclopentylamine. The solution was heated at 100° C. overnight, then cooled to room temperature. Ethyl acetate was added to dilute the reaction mixture, the organic phase was washed with water and brine and dried over magnesium sulfate. Filtration and concentration followed by purification with flash chromatography (1:4 ethyl acetate:hexanes) gave N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(2-furyl)pyrazolo[1,5-a]pyridin-7-amine (206 mg, 91%) as a yellow solid. 1H NMR (CDCl3): δ 8.20 (d, 1H), 7.68 (d, 1H), 7.62 (d, 1H), 7.32 (t, 1H), 6.92 (d, 1H), 6.59 (m, 2H), 6.05 (m, 2H), 5.11 (d, 1H), 4.43 (m, 1H), 4.04 (m, 1H), 2.14 (m, 4H), 1.87–1.56 (m, 12H). MS m/z 429 (M+1).

reactant | 4-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.53 mmol, 200 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2OC=CC2 | C20H18ClN5O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopentylamine | 5 mL | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(2-furyl)pyrazolo[1,5-a]pyridin-7-amine | 206 mg, 91% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2OC=CC2 | C25H28N6O
